US05496928
To a mixture of Boc-Leu-DTrp(COOMe)-OH (50 mg), H-DNle-OBzl.TsOH (46 mg), NMM (13 μl) and HOBT.H2O (16 mg) in dichloromethane (1 ml) was added EDCI.HCl (22 mg) under ice cooling. After being stirred at room temperature for 2 h, the mixture was diluted with dichloromethane, washed with water, 10% aq. citric acid, sat. aq. NaHCO3 and brine successively, dried over MgSO4 and evaporated in vacuo. The residue was purified by preparative TLC (Merck, Kieselgel 60 F254) with chloroform/methanol/acetic acid=100/10/1 for development to give Boc-Leu-DTrp(COOMe)-DNle-OBzl (67 mg).

reactant | Boc-Leu-DTrp(COOMe)-OH | 50 mg | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C(=O)OC)C(=O)O)C(=O)OC(C)(C)C | C24H33N3O7
reactant | H-DNle-OBzl | N[C@H](CCCC)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | TsOH | 46 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NMM | 13 μl | CN1CCOCC1 | C5H11NO
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 22 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | H2O | 16 mg | O | H2O
product | Boc-Leu-DTrp(COOMe)-DNle-OBzl | 67 mg | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C(=O)OC)C(=O)N[C@H](CCCC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C37H50N4O8
